US07855227B2
Step B 2-[[2-[4-(Benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amino]-N-methyl-acetamide
A mixture of 0.5 g (1.6 mmol) of [2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-(cyclopropylmethyl)amine, 0.27 ml (1.92 mmol) of triethylamine, 0.207 g (1.92 mmol) of 2-chloro-N-methyl-acetamide in 4 ml of dimethylformamide was heated with microwaves to 120° C. for 2 hours. The solvent was removed under vacuum and the crude was purified by flash chromatography (ethyl acetate/hexane 0:10→9:1 gradient). 0.52 g (84% yield) of the title compound was isolated as a yellow solid.

reactant | [2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-(cyclopropylmethyl)amine | 1.6 mmol, 0.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNCC1CC1)OC | C20H25NO2
reactant | triethylamine | 1.92 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-N-methyl-acetamide | 1.92 mmol, 0.207 g | ClCC(=O)NC | C3H6ClNO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-[[2-[4-(Benzyloxy)-3-methoxy-phenyl]-ethyl]-(cyclopropylmethyl)amino]-N-methyl-acetamide | 0.52 g, 84% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN(CC(=O)NC)CC1CC1)OC | C23H30N2O3
